US07700634B2
Sodium ethoxide (0.68 g, 9.94 mmol) was added portionwise to a mixture of ethyldichloroacetate (1.22 ml, 9.94 mmol) and diethyl ether (10 ml) under ice-water cooling and the resulting mixture was stirred at 0° C. for 30 minutes. Propionaldehyde (0.79 ml, 10.93 mmol) was then added and the reaction mixture allowed to warm to room temperature slowly and stirring continued for 72 hours. The reaction mixture was then poured onto water (10 ml) and extracted with diethyl ether (2×15 ml). The organic layers were combined, dried over magnesium sulfate, and concentrated in vacuo to yield crude 3-chloro-2-oxo-pentanoic acid ethyl ester (1.8 g) which was used in the next step without further purification.

reactant | Sodium ethoxide | 9.94 mmol, 0.68 g | [O-]CC.[Na+]
reactant | ethyldichloroacetate | 9.94 mmol, 1.22 ml | C(C)OC(C(Cl)Cl)=O | C4H6Cl2O2
reactant | Propionaldehyde | 10.93 mmol, 0.79 ml | C(CC)=O | C3H6O
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 3-chloro-2-oxo-pentanoic acid ethyl ester | 1.8 g | C(C)OC(C(C(CC)Cl)=O)=O | C7H11ClO3
